US06800651B2
N-(4-Bromophenyl)-N-(ethanesulfonyl)pyrid-3-ylmethylamine
Using the procedure of Example 343 using N-(4-bromophenyl)pyridin-3-ylmethylamine and ethanesulfonyl chloride (Aldrich) and purifying via preparative HPLC eluting with 90:10 to 70:30 DCM/ethyl acetate gave the title compound. Anal Calcd for C14H15BrN2O2S: C, 47.33; H, 4.26; N, 7.88. Found: C, 47.24; H, 4.23; N, 7.79. MS found 354.0, 355.9 FD.

reactant | N-(4-bromophenyl)pyridin-3-ylmethylamine | BrC1=CC=C(C=C1)NCC=1C=NC=CC1 | C12H11BrN2
reactant | ethanesulfonyl chloride | C(C)S(=O)(=O)Cl | C2H5ClO2S
product | N-(4-Bromophenyl)-N-(ethanesulfonyl)pyrid-3-ylmethylamine | BrC1=CC=C(C=C1)N(S(=O)(=O)CC)CC=1C=NC=CC1 | C14H15BrN2O2S
